US07612067B2
Preparation of 3-[3-chloro-4-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask of 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.20 g, 0.49 mmol) is added 0.5 g/mL Reike® Zn (1.3 mL, 0.97 mmol). The slurry is heated at 65° C. for 1 hour, placed in a centrifuge for 5 minutes, and the solution transferred to a flask containing 5-bromo-1-methyl-1H-[1,2,4]triazole (0.12 g, 0.73 mmol) and PdCl2(dppf) (0.018 g, 0.024 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (20 mL), washed with sat. NH4Cl (15 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO flash chromatography (20%-50% EtOAc gradient) furnish the title compound (0.018 g, 0.043 mmol, 9%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.51 (s, 3H), 2.52 (s, 3H), 3.26-3.37 (m, 1H), 3.95 (s, 3H), 6.72 (s, 1H), 7.82 (s, 1H), 8.01 (s, 1H). LC/MS (m/z): calcd. for C20H23ClN6S (M+H)+: 415.2; found: 415.3.

reactant | 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.49 mmol, 0.20 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | 5-bromo-1-methyl-1H-[1,2,4]triazole | 0.73 mmol, 0.12 g | BrC1=NC=NN1C | C3H4BrN3
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 0.97 mmol, 1.3 mL | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.024 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3-chloro-4-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.043 mmol, 0.018 g, 9% | ClC1=C(SC=C1C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H23ClN6S
